US06541484B2
To a semi-solid mixture of 18-crown-6 (4.31 g, 16 mmol) and THF (30 ml) at −40° C. under nitrogen was added bis(2,2,2-trifluoroethyl)-(methoxycarbonylmethyl)phosphonate (0.69 ml, 3.26 mmol) followed by a solution of potassium bis(trimethylsilyl)amide in toluene (6.52 ml of a 0.5M solution, 3.26 mmol). A solution of 5-amino-1-phenyl-1H-pyrazole-4-carboxaldehyde (0.61 g, 3.26 mmol) in THF (10 ml+5 ml washings) was then added via cannula and the resulting mixture was stirred for 20 h, allowing to warm to room temperature. The reaction mixture was partitioned between saturated aqueous ammonium chloride solution and diethyl ether. The aqueous phase was extracted a second time with diethyl ether, and the combined organic extracts were washed with brine, dried (MgSO4) and concentrated. The crude material was dissolved in THF (20 ml), under nitrogen, and the resulting solution cooled to 0° C. A solution of potassium bis(trimethylsilyl)amide in toluene (13.0 ml of a 0.5M solution, 6.5 mmol) was added dropwise and the reaction mixture was stirred for 17 h during which time it was allowed to warm to room temperature. The reaction mixture was partitioned between saturated aqueous ammonium chloride solution and ethyl acetate. The aqueous phase was extracted a second time with ethyl acetate, and the combined organic extracts were washed sequentially with 0.5M aqueous hydrochloric acid and brine before being dried (MgSO4) and concentrated in vacuo. The crude material was purified by chromatography on silica eluting with 30% ethyl acetate-hexane to give 1,7-dihydro-1-phenylpyrazolo[3,4-b]pyridin-6-one (0.49 g, 71%). δH (400 MHz; CDCl3) 6.50 (1H, d, J=9), 7.29-7.33 (1H, m), 7.42-7.45 (2H, m), 7.71-7.73 (2H, m), 7.85 (1H, d, J=9), 7.91 (1H, s).

reactant | 18-crown-6 | 16 mmol, 4.31 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | bis(2,2,2-trifluoroethyl)-(methoxycarbonylmethyl)phosphonate | 3.26 mmol, 0.69 ml | FC(COP(OCC(F)(F)F)(=O)CC(=O)OC)(F)F | C7H9F6O5P
reactant | potassium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | 5-amino-1-phenyl-1H-pyrazole-4-carboxaldehyde | 3.26 mmol, 0.61 g | NC1=C(C=NN1C1=CC=CC=C1)C=O | C10H9N3O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | 1,7-dihydro-1-phenylpyrazolo[3,4-b]pyridin-6-one | 0.49 g, 71% | C1(=CC=CC=C1)N1N=CC2=C1NC(C=C2)=O | C12H9N3O
